US07989449B2
A dried pressure tube was charged with (RS)-4-(3-bromo-phenyl)-4-(4-difluoromethoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine (Building Block S) (131 mg, 0.3 mmol), 3-(difluoromethoxy)-benzeneboronic acid (93 mg, 0.5 mmol), triphenylphosphine (18 mg, 0.1 mmol), 2 N sodium carbonate solution (0.5 mL), and 1,2-dimethoxyethane (3 mL). The mixture was purged with nitrogen before palladium(II) acetate (7 mg, 0.03 mmol) was added. The sealed pressure tube was heated at 100° C. for 15 hours. For the working-up, the reaction mixture was cooled and evaporated under reduced pressure. The residue was directly chromatographed on silica gel using a gradient of dichloromethane/methanol=100/0 to 95/5 as the eluent. There were obtained 43 mg (28% of theory) of (RS)-4-(3′-difluoromethoxy-biphenyl-3-yl)-4-(4-difluoromethoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine as light yellow solid. Mass (calculated) C24H20F4N2O3 [460]; (found) [M+H]+=461.

reactant | (RS)-4-(3-bromo-phenyl)-4-(4-difluoromethoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine | 0.3 mmol, 131 mg | BrC=1C=C(C=CC1)C1(N=C(OC1)N)C1=CC(=C(C=C1)OC(F)F)C | C17H15BrF2N2O2
reactant | 3-(difluoromethoxy)-benzeneboronic acid | 0.5 mmol, 93 mg | FC(OC=1C=C(C=CC1)B(O)O)F | C7H7BF2O3
reactant | triphenylphosphine | 0.1 mmol, 18 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 2 N, 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(II) acetate | 0.03 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
product | (RS)-4-(3′-difluoromethoxy-biphenyl-3-yl)-4-(4-difluoromethoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine | 43 mg, 28% | FC(OC=1C=C(C=CC1)C1=CC(=CC=C1)C1(N=C(OC1)N)C1=CC(=C(C=C1)OC(F)F)C)F | C24H20F4N2O3
